US07491710B2
Stage Ib: A suspension of 3.23 g of 5-benzyloxy-3-iodoindazole-1-carboxylic acid tert-butyl ester, 7.31 g of 2-[4-(1-tert-butoxycarbonyl-2,3-dihydro-1H-indol-2-yl)-1,3,2,4-dioxadiboretan-2-yl]indole-1-carboxylic acid tert-butyl ester, 2.07 g of palladium tetrakistriphenylphosphine and 11 ml of a saturated aqueous sodium bicarbonate solution is heated at reflux for approximately two hours and then at ambient temperature overnight. The reaction medium is filtered through paper, and the filtrate is then diluted with 150 ml of ethyl acetate. The organic phase is washed with 200 ml of distilled water. The aqueous phase is extracted with 2×150 ml of ethyl acetate. The organic phases are combined and washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and filtered. The solvent is evaporated off under vacuum in a rotary evaporator. The resulting crude product is purified by flash chromatography on silica 70-200 μm, eluent: cyclohexane/ethyl acetate gradient 95:5 to 70:30 to obtain 1.97 g of 5-benzyloxy-3-(1H-indol-2-yl)-1H-indazole.

reactant | 5-benzyloxy-3-iodoindazole-1-carboxylic acid tert-butyl ester | 3.23 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)I | C19H19IN2O3
reactant | 2-[4-(1-tert-butoxycarbonyl-2,3-dihydro-1H-indol-2-yl)-1,3,2,4-dioxadiboretan-2-yl]indole-1-carboxylic acid tert-butyl ester | 7.31 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)B1OB(O1)C1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C26H30B2N2O6
reactant | sodium bicarbonate | 11 ml | C([O-])(O)=O.[Na+]
product | 5-benzyloxy-3-(1H-indol-2-yl)-1H-indazole | 1.97 g | C(C1=CC=CC=C1)OC=1C=C2C(=NNC2=CC1)C=1NC2=CC=CC=C2C1 | C22H17N3O
